US07342115B2
A mixture of 4,6-dichloro-2-trifluoromethyl-nicotinic acid methyl ester (1.0 g, 3.7 mmol), 2,6-diethyl-phenyl boronic acid (0.78 g, 4.4 mmol), sodium carbonate (2 M aqueous solution, 4.4 mL, 8.8 mmol), and Pd(PPh3)4 (206 mg, 0.18 mmol) is refluxed in toluene for 48 hours and then cooled to room temperature. The organic layer is separated and the aqueous layer is extracted with ethyl acetate (2×50 mL). The combined organic layers are dried and the solvent removed. The crude product is purified by flash column (hexanes/ethyl acetate 8:1) to give 4-chloro-6-(2,6-diethyl-phenyl)-2-trifluoromethyl-nicotinic acid methyl ester as a white solid. 1H NMR: (CDCl3) 7.58 (s, 1H), 7.25 (t, 1H), 7.20 (d, 2H), 4.02 (s, 2.28 (q, 4H), 1.04 (t, 6H).

reactant | 4,6-dichloro-2-trifluoromethyl-nicotinic acid methyl ester | 3.7 mmol, 1.0 g | COC(C1=C(N=C(C=C1Cl)Cl)C(F)(F)F)=O | C8H4Cl2F3NO2
reactant | 2,6-diethyl-phenyl boronic acid | 4.4 mmol, 0.78 g | C(C)C1=C(C(=CC=C1)CC)B(O)O | C10H15BO2
reactant | sodium carbonate | 8.8 mmol, 2 M, 4.4 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.18 mmol, 206 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-chloro-6-(2,6-diethyl-phenyl)-2-trifluoromethyl-nicotinic acid methyl ester | COC(C1=C(N=C(C=C1Cl)C1=C(C=CC=C1CC)CC)C(F)(F)F)=O | C18H17ClF3NO2
